USH0000078
Preparation of 3,3,5,7,7-Pentanitro-5-azanonane-1,9-diol-1,9-diacetate
Acetic anhydride (315 ml) was stirred in an ice bath to maintain a temperature of 20°-23° C. during the slow addition of 95 ml of 90 percent nitric acid. The solution was then cooled to 5° C. while 3,3,7,7-tetranitro-5-azanonane-1,9-diol-1,9-diacetate was added in portions with good stirring. The solution was stirred at ambient temperature overnight before it was poured into ice water. The mixture was stirred for one hour and the solid (66.5 g, 97 percent, mp 87°-89° C.) was removed by filtration. A recrystallized sample (CH2Cl2 /hexane) had mp 88°-89° C.; 1H NMR (CDCl3): δ2.09 (s, 3H), 3.00 (t, 2H), 4.35 (t, 2H), 5.20 (s, 2H).

reactant | Acetic anhydride | 315 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 95 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3,3,7,7-tetranitro-5-azanonane-1,9-diol-1,9-diacetate | C(C)(=O)OCCC(CNCC(CCOC(C)=O)([N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C12H19N5O12
product | 3,3,5,7,7-Pentanitro-5-azanonane-1,9-diol-1,9-diacetate | C(C)(=O)OCCC(CN(CC(CCOC(C)=O)([N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C12H18N6O14
